US06090817
A stirred mixture of 5-(3-bromo-5-methoxyphenyl)benzofurazan (2.44 g, 8 mmol), 6-(trimethylstannyl)imidazo[1,2-a]pyridine (2.2 g, 7.9 mmol), triphenylphosphine (336 mg, 1.28 mmol), and bis(dibenzylidineacetone)palladium(0) (186 mg, 0.32 mmol) in dimethylformamide (60 mL) is heated at 125° C. under an argon atmosphere for 36 h. The solvent is evaporated off under reduced pressure to yield a crude product which is purified by chromatography (silica gel, 95% ethyl acetate/4.5% ethanol/0.5% aqueous NH3 (25%)) and recrystallised from ethyl acetate-t-butylmethyl ether to give 6-[4-methoxy-3-(5-benzofurazanyl)phenyl]imidazo[1,2-a]pyridine as a pale-yellow crystalline solid, m.p. 190-196° C.

reactant | 5-(3-bromo-5-methoxyphenyl)benzofurazan | 8 mmol, 2.44 g | BrC=1C=C(C=C(C1)OC)C=1C=CC=2C(=NON2)C1 | C13H9BrN2O2
reactant | 6-(trimethylstannyl)imidazo[1,2-a]pyridine | 7.9 mmol, 2.2 g | C[Sn](C=1C=CC=2N(C1)C=CN2)(C)C
reactant | triphenylphosphine | 1.28 mmol, 336 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 6-[4-methoxy-3-(5-benzofurazanyl)phenyl]imidazo[1,2-a]pyridine | COC1=C(C=C(C=C1)C=1C=CC=2N(C1)C=CN2)C=2C=CC=1C(=NON1)C2 | C20H14N4O2
